US06919356B2
Part A: Preparation of 3-(4-fluorophenyl)-propan-1-ol
A solution of 3-(4-fluorophenyl)-propionic acid (4.20 g, 25 mmol) in tetrahydrofuran (10 mL) was stirred on an ice bath and treated with a solution of borane in tetrahydrofuran (1.0 M, 33 mL, 33 mmol) over 15 minutes. The resulting solution was stirred at room temperature for one hour. A mixture of tetrahydrofuran (5 mL) and water (5 mL) was added over 2 minutes. After 5 minutes of additional stirring, 4 mL of additional water was added, and solid potassium carbonate was added until the aqueous phase was saturated. The layers were separated and the aqueous phase was extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated to provide a colorless liquid (3.70 g, 96%) which was used without further purification. 1H NMR (300 MHz, CDCl3) δ7.16 (m, 2H), 6.99 (t, J=9 Hz, 2H), 3.69 (t, J=6 Hz, 2H), 2.70 (t, J=8 Hz, 2H), 1.87 (m, 2H), 1.50 (bs, 1H). Mass spec (CH4-CI) m/z 137.0 (M+H+-H2O).

reactant | 3-(4-fluorophenyl)-propionic acid | 25 mmol, 4.20 g | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
reactant | borane | B | BH3
reactant | water | 5 mL | O | H2O
reactant | water | 4 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 33 mmol, 1.0 M, 33 mL | O1CCCC1 | C4H8O
product | 3-(4-fluorophenyl)-propan-1-ol | 3.70 g, 96% | FC1=CC=C(C=C1)CCCO | C9H11FO
